US08232312B2
tert-butyl[(3-chloro-5-trimethylsilylethynyl-Phenylsulphonyl)-(9-ethyl-9H-carbazol-3-yl)-amino]-acetate
320 mg tert-butyl [(3-chloro-5-trifluoromethylsulphonyloxy-phenylsulphonyl)-(9-ethyl-9H-carbazol-3-yl)-amino]-acetate are dissolved in 4 ml dimethylformamide. 20 mg copper-1-iodide, 40 mg bis-triphenylphosphine-palladium-dichloride and 210 μl trimethylsilylacetylene are added under argon. Then the mixture is heated to 60° C. for 6 hours and then stirred overnight at ambient temperature. The mixture is then divided between saturated potassium carbonate solution and ethyl acetate. The organic phase is dried on magnesium sulphate and the solvents are eliminated in vacuo. The residue is chromatographed on silica gel (dichloromethane/methanol 100:0 to 95:5).

reactant | tert-butyl [(3-chloro-5-trifluoromethylsulphonyloxy-phenylsulphonyl)-(9-ethyl-9H-carbazol-3-yl)-amino]-acetate | 320 mg | ClC=1C=C(C=C(C1)OS(=O)(=O)C(F)(F)F)S(=O)(=O)N(C=1C=CC=2N(C3=CC=CC=C3C2C1)CC)CC(=O)OC(C)(C)C | C27H26ClF3N2O7S2
reactant | trimethylsilylacetylene | 210 μl | C[Si](C)(C)C#C | C5H10Si
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dimethylformamide | 4 ml | CN(C=O)C | C3H7NO
product | tert-butyl[(3-chloro-5-trimethylsilylethynyl-Phenylsulphonyl)-(9-ethyl-9H-carbazol-3-yl)-amino]-acetate | C(C)(C)(C)OC(CN(C=1C=CC=2N(C3=CC=CC=C3C2C1)CC)S(=O)(=O)C1=CC(=CC(=C1)C#C[Si](C)(C)C)Cl)=O | C31H35ClN2O4SSi
